US05910498
Ethyl 1-(2,4-difluoro-5-nitrophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate
To 40 ml of dichloroethane was added 4.2 g of 1-(2,4-difluoro-5-nitrophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. With ice cooling, 7 g of oxalyl chloride was added dropwise. After the completion of addition, the solution was stirred for 2 hours at room temperature. Ethanol (15 ml) was added dropwise to the reaction solution, which was stirred overnight at room temperature. The reaction solution was concentrated in vacua, ethanol was added to the residue, and the solid was collected by filtration and washed with diethyl ether to give 3.7 g of the title compound.

reactant | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
reactant | 1-(2,4-difluoro-5-nitrophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 4.2 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C16H6F4N2O5
reactant | oxalyl chloride | 7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | Ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 1-(2,4-difluoro-5-nitrophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 3.7 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H10F4N2O5
